US09024027B2
Step 2: Preparation of 4,5-dimethoxyphthalic acid (153)
5,6-Dimethoxyisobenzofuran-1(3H)-one (3.171 g, 16.33 mmol) was treated with a solution of KMnO4 (2.57 g, 16.26 mmol) and Na2CO3 (1.542 g, 14.55 mmol) in water (110 ml). The solution was stirred at room temperature for 24 hours, then insoluble material was removed by filtration. The filtrate was cooled with an ice-water bath and acidified with concentrated aqueous HCl. The acidic solution was extracted three times with ethyl acetate (500 ml). The combined organic layers were dried over sodium sulfate and evaporated to dryness to give 600 mg of desired compound. The aqueous phase was then concentrated to 20 ml and a white solid precipitated. After filtration 500 mg desired compound were recovered. The two portions were collected to afford 4,5-dimethoxyphthalic acid as a white powder (1.1 g, 4.87 mmol, 30% yield). MS/ESI+ not detectable [MH]+.

reactant | 5,6-Dimethoxyisobenzofuran-1(3H)-one | 16.33 mmol, 3.171 g | COC=1C=C2COC(C2=CC1OC)=O | C10H10O4
reactant | KMnO4 | 16.26 mmol, 2.57 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | Na2CO3 | 14.55 mmol, 1.542 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 110 ml | O | H2O
product | 4,5-dimethoxyphthalic acid | 600 mg | COC=1C=C(C(C(=O)O)=CC1OC)C(=O)O | C10H10O6
